* File     : SMA6J.LIB
* Revision : 1.0
* Date     : January 2016
*
***************************************************************************************
* Information included is believed to be accurate and reliable. However, *
* ST Microelectronics assumes no responsibility for the consequences of  *
* use of such information nor for any infringement of patents or other   *
* rights of third parties which may result from its use. No license is   *
* granted by implication or otherwise under any patent patent rights of  *
* ST Microelectronics. Specification mentionned in this publication are  *
* subject to change without notice. This publication superseedes and 	 *
* replaces all information previously supplied. ST Microelectronics      *
* products are not authorized for use as critical components in life     *
* support or systems without express written approval of ST              *
* Microelectronics.                          	                         *
*                                                                    	 *			*
*    (c) 1997 ST Microelectronics. All rights reserved.     	         *
*                                                                    	 *			*
*           ST Microelectronics GROUP OF COMPANIES                       *
* Australia - Brazil - France - Germany - Hong Kong - Italy - Japan  	 *
* Korea - Malaysia - Malta - Morocco - The Netherlands - Singapore   	 *
* Spain - Sweden - Switzerland - Taiwan - United Kingdom - U.S.A.    	 *
*									 *
***************************************************************************************
*
******** PARAMETERS DESCRIPTION ********
* IRM		Stand-off current at VRM
* VBR		Breakdown voltage
* IR		Reverse current at VBR
* VCL		Clamping voltage
* Ipp		Surge current
* Cjo		junction capacitance at 0V
* IS		Saturation current
* N			Emission coefficient
* RS		Serie resistance
* IKF		High injection knee current
*****************************************

*****************************************
*********** UNIDIRECTIONAL TRANSIL ***********
*****************************************

.SUBCKT TRANSIL  Anode  Cathode  PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISF=1f  NF=1  RSF=1m  IKFF=1000

Drev    A_int    Cathode    TRANSR
Dfwd   Anode   Cathode    TRANSF
Dr       A_int    Anode       DTRANS

***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1n  TT=1u )

.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1n  BV=1000  IBV=1u
+ TT=1u )

***** JUNCTION CAPACITANCE BEHAVIOUR Cj(VR) *****
.MODEL   TRANSF  D(
+ IS={ISF}  N={NF}  RS={RSF}  IKF={IKFF}
+ Cjo={Cjof}  M=.35  VJ=0.65  ISR=1.000E-21
+ BV=1000  IBV=1n  TT=1u )



.ENDS

*****************************************
*********** BIDIRECTIONAL TRANSIL **********
*****************************************

********** Low voltage ************
.SUBCKT   TRANSILBLV   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISBF=1f  NBF=1
+ MCB=0.21 VJCB=0.65

***** SCHEMATICS DESCRIPTION *****
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS

***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )

.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )

***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS={ISBF}  N={NBF}  RS=1u  IKF=1000
+ Cjo={Cjof}  M={MCB}  VJ={VJCB}  ISR=1p
+ BV=1000  IBV=100u  TT=1u )

.ENDS


********** High voltage **********
.SUBCKT   TRANSILBHV   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISBF=1f  NBF=1
+ MCB=0.35 VJCB=0.65

***** SCHEMATICS DESCRIPTION *****
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS

***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )

.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )

***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS={ISBF}  N={NBF}  RS=1u  IKF=1000
+ Cjo={Cjof}  M={MCB}  VJ={VJCB}  ISR=1p
+ BV=1000  IBV=100u  TT=1u )

.ENDS



*************************************************************************************************
*				SMA6J family
*************************************************************************************************


.SUBCKT  SMA6J5_0A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=6.74  VBRmax=7.07
+ IR=10m  VCLmax=13.4  Ipp=298  Cjof=3.5n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J5_0CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=20u  VBRnom=6.74  VBRmax=7.07
+ IR=10m  VCLmax=13.4  Ipp=298  Cjof=1750p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J6_0A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=7.05  VBRmax=7.41
+ IR=10m  VCLmax=13.7  Ipp=290  Cjof=2.85n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J6_0CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=20u  VBRnom=7.05  VBRmax=7.41
+ IR=10m  VCLmax=13.7  Ipp=290  Cjof=1500p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J6_5A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=7.58  VBRmax=7.96
+ IR=10m  VCLmax=14.5  Ipp=276  Cjof=2.61n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J6_5CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=20u  VBRnom=7.58  VBRmax=7.96
+ IR=10m  VCLmax=14.5  Ipp=276  Cjof=1380p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J8_5A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=9.9  VBRmax=10.4
+ IR=1m  VCLmax=19.5  Ipp=205  Cjof=1.92n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J8_5CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=20u  VBRnom=9.9  VBRmax=10.4
+ IR=1m  VCLmax=19.5  Ipp=205  Cjof=1020p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J10A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=11.7  VBRmax=12.3
+ IR=1m  VCLmax=21.7  Ipp=184  Cjof=1.6n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J10CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=0.2u  VBRnom=11.7  VBRmax=12.3
+ IR=1m  VCLmax=21.7  Ipp=184  Cjof=835p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J12A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=14  VBRmax=14.7
+ IR=1m  VCLmax=25.3  Ipp=157  Cjof=1.31n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J12CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=0.2u  VBRnom=14  VBRmax=14.7
+ IR=1m  VCLmax=25.3  Ipp=157  Cjof=663p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J13A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=15.2  VBRmax=15.9
+ IR=1m  VCLmax=27.2  Ipp=147  Cjof=1.20n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J13CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=0.2u  VBRnom=15.2  VBRmax=15.9
+ IR=1m  VCLmax=27.2  Ipp=147  Cjof=600p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J15A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=17.6  VBRmax=18.5
+ IR=1m  VCLmax=32.5  Ipp=123  Cjof=1.02n
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J15CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=0.2u  VBRnom=17.6  VBRmax=18.5
+ IR=1m  VCLmax=35.5  Ipp=123  Cjof=500p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J18A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=21.1  VBRmax=22.1
+ IR=1m  VCLmax=39.3  Ipp=102  Cjof=840p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J18CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=0.2u  VBRnom=21.1  VBRmax=22.1
+ IR=1m  VCLmax=39.3  Ipp=102  Cjof=398p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J20A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=23.4  VBRmax=24.5
+ IR=1m  VCLmax=42.8  Ipp=93  Cjof=752p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J20CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=0.2u  VBRnom=23.4  VBRmax=24.5
+ IR=1m  VCLmax=42.8  Ipp=93  Cjof=350p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J24A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=28.1  VBRmax=29.5
+ IR=1m  VCLmax=50  Ipp=80  Cjof=622p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J24CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBLV  PARAMS:
+ IRM=0.2u  VBRnom=28.1  VBRmax=29.5
+ IR=1m  VCLmax=50  Ipp=80  Cjof=281p
+ ISBF=1n  NBF=.01
.ENDS

.SUBCKT  SMA6J26A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=30.4  VBRmax=31.9
+ IR=1m  VCLmax=53.5  Ipp=75  Cjof=573p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J26CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=30.4  VBRmax=31.9
+ IR=1m  VCLmax=53.5  Ipp=75  Cjof=288p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J28A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=32.7  VBRmax=34.4
+ IR=1m  VCLmax=59  Ipp=68  Cjof=532p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J28CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=32.7  VBRmax=34.4
+ IR=1m  VCLmax=59  Ipp=68  Cjof=268p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J33A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=38.6  VBRmax=40.6
+ IR=1m  VCLmax=69  Ipp=57  Cjof=452p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J33CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=38.6  VBRmax=40.6
+ IR=1m  VCLmax=69  Ipp=57  Cjof=223p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J40A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=46.7  VBRmax=49.1
+ IR=1m  VCLmax=84  Ipp=48  Cjof=376p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J40CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=46.7  VBRmax=49.1
+ IR=1m  VCLmax=84  Ipp=48  Cjof=183p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J48A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=56.1  VBRmax=58.9
+ IR=1m  VCLmax=100  Ipp=40  Cjof=317p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J48CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=56.1  VBRmax=58.9
+ IR=1m  VCLmax=100  Ipp=40  Cjof=153p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J58A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=67.8  VBRmax=71.2
+ IR=1m  VCLmax=121  Ipp=33  Cjof=268p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J58CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=67.8  VBRmax=71.2
+ IR=1m  VCLmax=121  Ipp=33  Cjof=135p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J70A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=81.9  VBRmax=86
+ IR=1m  VCLmax=146  Ipp=27  Cjof=228p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J70CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=81.9  VBRmax=86
+ IR=1m  VCLmax=146  Ipp=27  Cjof=109p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J85A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=99  VBRmax=104
+ IR=1m  VCLmax=178  Ipp=22.5  Cjof=194p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J85CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=99  VBRmax=104
+ IR=1m  VCLmax=178  Ipp=22.5  Cjof=94p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J100A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=117  VBRmax=123
+ IR=1m  VCLmax=212  Ipp=19  Cjof=171p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J100CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=117  VBRmax=123
+ IR=1m  VCLmax=212  Ipp=19  Cjof=84p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J130A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=152  VBRmax=159
+ IR=1m  VCLmax=265  Ipp=15  Cjof=140p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J130CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=152  VBRmax=159
+ IR=1m  VCLmax=265  Ipp=15  Cjof=71p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J154A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=180  VBRmax=189
+ IR=1m  VCLmax=317  Ipp=12.6  Cjof=125p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J154CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=180  VBRmax=189
+ IR=1m  VCLmax=317  Ipp=12.6  Cjof=64.5p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J170A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=199  VBRmax=209
+ IR=1m  VCLmax=353  Ipp=11.3  Cjof=117p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J170CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=199  VBRmax=209
+ IR=1m  VCLmax=353  Ipp=11.3  Cjof=61.3p
+ ISBF=1n  NBF=.01
.ENDS


.SUBCKT  SMA6J188A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=220  VBRmax=231
+ IR=1m  VCLmax=388  Ipp=10.3  Cjof=110p
+ ISF=27.04f  NF=1.016  RSF=13.69m  IKFF=41.7
.ENDS


.SUBCKT  SMA6J188CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHV  PARAMS:
+ IRM=0.2u  VBRnom=220  VBRmax=231
+ IR=1m  VCLmax=388  Ipp=10.3  Cjof=55p
+ ISBF=1n  NBF=.01
.ENDS






